US08497274B2
(iv) Production of N-(5-{[2-(acetylamino)-7-nitro-1,3-benzothiazol-6-yl]oxy}-2-fluorophenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide
To a solution of N-{5-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-chloro-3-(1-cyano-1-methylethyl)benzamide (199 mg, 0.38 mmol) in pyridine (2 mL) was added acetyl chloride (41 μL, 0.57 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate (50 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=60/40→100/0), and the obtained solution was concentrated under reduced pressure to give the title compound (125 mg, 58%) as a white powder.

reactant | N-{5-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 0.38 mmol, 199 mg | NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=CC(=C(C2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O)F | C24H17ClFN5O4S
reactant | acetyl chloride | 0.57 mmol, 41 μL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-{[2-(acetylamino)-7-nitro-1,3-benzothiazol-6-yl]oxy}-2-fluorophenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 125 mg, 58% | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=CC(=C(C2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O)F | C26H19ClFN5O5S
